US04232887
Preparation of 7-(1-ethyl-2-methylindol-3-yl)-7-(1,2-diphenylindolizin-3-yl)-5,7-dihydrofuro[3,4-b]pyridin-5-one.
A mixture of 1.6 grams of (1-ethyl-2-methylindol-3-yl)(3-carboxypyridin-2-yl)ketone, 1.85 grams of 1,2-diphenylindolizine and 10 ml. of acetic anhydride was heated at about 40° C. for 104 minutes and then cooled in an ice bath. The reaction mixture was filtered and the product was repeatedly recrystallized from a toluene-petroleum ether mixture until a constant melting point of 206.5°-207.5° C. was obtained. A chloroform solution of the final product produced a blue color when applied to a record sheet material coated with a zinc-modified phenolic resin.

reactant | (1-ethyl-2-methylindol-3-yl)(3-carboxypyridin-2-yl)ketone | 1.6 grams | C(C)N1C(=C(C2=CC=CC=C12)C(=O)C1=NC=CC=C1C(=O)O)C | C18H16N2O3
reactant | 1,2-diphenylindolizine | 1.85 grams | C1(=CC=CC=C1)C=1C(=CN2C=CC=CC12)C1=CC=CC=C1 | C20H15N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-(1-ethyl-2-methylindol-3-yl)-7-(1,2-diphenylindolizin-3-yl)-5,7-dihydrofuro[3,4-b]pyridin-5-one | C(C)N1C(=C(C2=CC=CC=C12)C1(OC(C=2C1=NC=CC2)=O)C2=C(C(=C1C=CC=CN21)C2=CC=CC=C2)C2=CC=CC=C2)C | C38H29N3O2
